US04410537
2-Hydroxy-6-methoxybenzaldehyde (3.74 g, 0.025 M), ethyl 5-bromo-2,2-dimethylpentanoate (5.95 g, 0.025 M), anhydrous potassium carbonate (3.72 g), sodium iodide (0.11 g) and ethanol (50 ml) were refluxed with stirring for 18 hr. The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The organic layer was separated and washed with 2 N sodium hydroxide solution, water, dried (sodium sulphate) and evaporated to give ethyl 5-(2-formyl-3-methoxyphenoxy)-2,2-dimethylpentanoate, 6.46 g, 84%, as an oil.

reactant | 2-Hydroxy-6-methoxybenzaldehyde | 0.025 M, 3.74 g | OC1=C(C=O)C(=CC=C1)OC | C8H8O3
reactant | ethyl 5-bromo-2,2-dimethylpentanoate | 0.025 M, 5.95 g | BrCCCC(C(=O)OCC)(C)C | C9H17BrO2
reactant | potassium carbonate | 3.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.11 g | [I-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 5-(2-formyl-3-methoxyphenoxy)-2,2-dimethylpentanoate | C(=O)C1=C(OCCCC(C(=O)OCC)(C)C)C=CC=C1OC | C17H24O5
